US07700634B2
A mixture of 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carboxylic acid amide (prepared from 7-methoxyindole as described in Example 1; 5.10 g, 17.8 mmol), Lawesson's reagent (7.92 g, 19.6 mmol), and toluene (150 ml) was stirred at room temperature for 4 days. The reaction mixture was concentrated in vacuo and the obtained reside was purified by column chromatography eluting with dichloromethane to afford 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbothioic acid amide (3.58 g). A mixture of 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbothioic acid amide (200 mg, 0.66 mmol), 1,3-dichloroacetone (126 mg, 0.99 mmol), and ethanol (2.0 ml) was stirred at 60° C. for 1 h. The reaction mixture was concentrated in vacuo, and the obtained residue was mixed with 5% aqueous sodium carbonate (100 ml). The resulting mixture was extracted with dichloromethane (4×100 ml). The organic layers were combined, washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The obtained residue was purified by column chromatography eluting with 25% (v/v) ethyl acetate in n-heptane to give 3-[4-(chloromethyl)thiazol-2-yl]-1-(cyclohexyl)methyl-7-methoxy-1H-indole (200 mg).

reactant | 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbothioic acid amide | 0.66 mmol, 200 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(N)=S | C17H22N2OS
reactant | 1,3-dichloroacetone | 0.99 mmol, 126 mg | ClCC(=O)CCl | C3H4Cl2O
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 3-[4-(chloromethyl)thiazol-2-yl]-1-(cyclohexyl)methyl-7-methoxy-1H-indole | 200 mg | ClCC=1N=C(SC1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C20H23ClN2OS
